US06559173B1
3-[(1-H-Pyrazol-3 ylamino)methylene]-1,3-dihydro-indol-2-one
E & Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one (0.10 g) is reacted with 0.1756 gms of 3-aminopyrazole by refluxing in tetrahydrofuran (2.7 mL) for 48 hours to yield 0.11 gms of the named compound as a solid following concentration in vacuo, dilution with isopropanol and filtration.

reactant | Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one | 0.10 g | O\C=C\1/C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 3-aminopyrazole | 0.1756 gms | NC1=NNC=C1 | C3H5N3
solvent | tetrahydrofuran | 2.7 mL | O1CCCC1 | C4H8O
product | 3-[(1-H-Pyrazol-3 ylamino)methylene]-1,3-dihydro-indol-2-one | N1N=C(C=C1)NC=C1C(NC2=CC=CC=C12)=O | C12H10N4O
